US06521641B1
To a solution of 3-(4-methoxy-phenylsulfanyl)-3-methyl-butyric acid (20.0 g, 83.2 mmol) in 250 mL of benzene at room temperature was added a solution of oxalyl chloride (15.84 g, 124.8 mmol) in 10 mL of benzene over 30 minutes. After 4 hours the solution was washed with ice cold 5% aqueous NaOH (CAUTION: a large volume of gas is released during this procedure), followed by ice cold H2O, and finally saturated aqueous NaCl. The solution was dried (Na2SO4) and concentrated under reduced pressure to give a clear yellow oil. This material was used without further purification in the next step. 1H NMR (300 MHz, CDCl3) δ: 7.45 (2H, d, J=8.8 Hz), 6.90 (2H, d, J=8.8 Hz), 3.84 (3H, s), 3.12 (2H, s), 1.41 (6H, s). Step 3: To a solution of the acyl chloride product of Step 2 (21.5 g, 83.2 mmol) in 250 mL of CH2Cl2 at 0° C. was added dropwise a solution of SnCl4 (21.7 g, 83.2 mmol) in 30 mL of CH2Cl2. After 2 hours the reaction was quenched by slow addition of 150 mL H2O. The organic layer was washed with 1M aqueous HCl, 5% aqueous NaOH, H2O, and finally saturated aqueous NaCl before being dried over MgSO4. Concentration under reduced pressure and vacuum distillation of the residual oil (Bulb-to-bulb, 125-135° C., 5 mm/Hg) afforded 14.48 g (78%) of 6-methoxy-2,2-dimethyl-thiochroman4-one as a pale-yellow oil. 1H NMR (300 MHz, CDCl3) δ: 7.62 (1H, d, J=2.9 Hz), 7.14 (1H, d, J=8.6 Hz), 7.03 (1H, dd, J=2.8 Hz), 3.83 (3H, s), 2.87 (2H, s), 1.46 (6H, s).

reactant | 3-(4-methoxy-phenylsulfanyl)-3-methyl-butyric acid | 83.2 mmol, 20.0 g | COC1=CC=C(C=C1)SC(CC(=O)O)(C)C | C12H16O3S
reactant | oxalyl chloride | 124.8 mmol, 15.84 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | SnCl4 | 83.2 mmol, 21.7 g | Cl[Sn](Cl)(Cl)Cl
solvent | benzene | 250 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 6-methoxy-2,2-dimethyl-thiochroman4-one | 14.48 g, 78% | COC=1C=C2C(CC(SC2=CC1)(C)C)=O | C12H14O2S
